US05221673
4-(3',4'-Dimethoxyphenyl)-thioxomethylmorpholine
A mixture of 25.1 g (0.1 mole) of 4-(3',4'-dimethoxyphenyl)-oxomethylmorpholine, 100 ml of pyridine and 22.3 g (0.1 mole) of diphosphorus pentasulfide is boiled for 8 hours. Then the solvent is removed in vacuo, the residue is poured into 300 g of icy water and the product is crystallized from ethanol.

reactant | 4-(3',4'-dimethoxyphenyl)-oxomethylmorpholine | 0.1 mole, 25.1 g | COC=1C=C(C=CC1OC)N1C(COCC1)C=O | C13H17NO4
reactant | diphosphorus pentasulfide | 0.1 mole, 22.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3',4'-Dimethoxyphenyl)-thioxomethylmorpholine | COC=1C=C(C=CC1OC)N1C(COCC1)C=S | C13H17NO3S
